US09254251B2
Preparation of 5-adamantan-1-yl-N-(2,5-dimethoxybenzyl)-2,4-dihydroxybenzamide
5-Adamantan-1-yl-2,4-dihydroxy-benzoic acid (1.21 g), N-hydroxysuccinimide (0.48 g) and N,N′-dicyclohexylcarbodiimide (0.86 g) are dissolved in dioxane (20 mL) and stirred for 12 hours. The produced solid is filtered and the filtrate is added dropwise to a mixture solution of 2,5-dimethoxybenzylamine (0.77 g), sodium bicarbonate (0.36 g) and water (4 mL). After stirring at 50° C. for 2 hours, the solution is cooled to room temperature, neutralized with 10% HCl solution and washed with ethyl acetate (100 mL). The organic layer is dried with anhydrous magnesium sulfate, concentrated under reduced pressure and separated by column chromatography to obtain 0.43 g of the target compound as white solid.

reactant | 5-Adamantan-1-yl-2,4-dihydroxy-benzoic acid | 1.21 g | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC(=C(C(=O)O)C2)O)O | C17H20O4
reactant | N-hydroxysuccinimide | 0.48 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N′-dicyclohexylcarbodiimide | 0.86 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5-adamantan-1-yl-N-(2,5-dimethoxybenzyl)-2,4-dihydroxybenzamide | 0.43 g | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC(=C(C(=O)NCC3=C(C=CC(=C3)OC)OC)C2)O)O | C26H31NO5
